Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Dilantin Kapseal / Droperidol / Heparin Agents / Sulfa 
(Sulfonamide Antibiotics) / Vancomycin / Zyvox / Dilaudid
 
Attending: ___.
 
Chief Complaint:
cellulitis
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with PMHx of rheumatoid arthritis with multiple prosthetic 
joints who presents with resents with bilateral lower extremity 
edema, warmth, concerning for cellulitis. 

She reports that she has been followed by her outpatient 
dermatologist for management of "dermatitis" and has has 
recently been doing or extremity wound care including Unna boot 
to the RLE. She was seen at her nurse practitioner several days 
ago, who asked about ___ BLE erythema with concern for possible 
cellulitis. Patient reports that she has since developed an open 
blister on her left lower extremity, and that her BLE erythema 
and swelling have been worsening over the past few days; she 
denies any pain of her BLE. She denies fevers, chills, 
paresthesias, abdominal pain, nausea, vomiting.

In the ED, initial VS 98.1, 83, 107/55, 20, 98% on RA.  Exam 
notable for warm erythema of BLE R > L with 1 cm open weeping 
wound of LLE.  Initial labs showed wnl Chem7 and CBC; lactate 
elevated to 2.3.  Patient received doxycycline x 1 prior to 
transfer.

Upon arrival to the floor, the patient reports that she has 
never had redness of her BLE before.  She is very concerned 
about possible cellulitis; she denies any associated pain of her 
BLE as noted above.  

ROS:  
(+) Per HPI  
(-) Denies fever, chills, night sweats, recent weight loss or 
gain.  
Denies headache, sinus tenderness, rhinorrhea or congestion. 
Denies cough, shortness of breath. Denies chest pain or 
tightness, palpitations. Denies nausea, vomiting, diarrhea, 
constipation or abdominal pain. No recent change in bowel or 
bladder habits. No dysuria. Denies arthralgias or myalgias.  
 
Past Medical History:
1. Juvenile rheumatoid arthritis diagnosed at age ___.
2. Multiple left and right hip surgeries with revisions.
3. Bilateral elbow and thumb fusion.
4. L4 to L5 fusion.
5. History of a right peroneal neuropathy. 
 
Social History:
___
Family History:
Mother with squamous cell cancer and father with congestive 
heart failure.
 
Physical Exam:
Admission Physical:
====================
Vital Signs:  98.1, 83, 107/55, 20, 98% on RA
General: Alert, oriented, elderly female in no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL, 
neck supple, JVP not elevated, no LAD  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
GU: No foley  
Ext: Warm, well perfused, severely deformed joints of her BUE 
and BLE, well healed anterior midline incision over the right 
knee.  Hyperpigmentation and erythema of BLE with crusting over 
her LLE.  1+ pitting edema of BLE to knees bilaterally.  
Neuro: AOx3.  CNII-XII intact, grossly nonfocal.  
Access:  PIV

Discharge Physical:
====================
Vital Signs: VSS, afebrile
General: Alert, oriented, elderly female in no acute distress, 
sitting up in bed  
HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, neck 
supple without JVD  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
GU: No foley  
Ext: Warm, well perfused, erythema from ankles to just below 
knees bilaterally with trace pitting edema bilaterally. 
Hyperpigmentation of BLE with crusting L>R. Severe joint 
deformities with well healed midline scar over right knee. No
significant warmth over bilateral lower extremities. Small 1-2cm 
circular wound on anterior lateral aspect of LLE (midshin) which 
is clean based without purulence. Significant joint deformities 
of MCPs, PIPs and elbows bilaterally  
Neuro: AOx3.  CNII-XII intact, grossly nonfocal.  
 
Pertinent Results:
ADMISSION LABS
===============
___ 07:56PM   LACTATE-2.3*
___ 07:40PM   GLUCOSE-91 UREA N-12 CREAT-0.4 SODIUM-140 
POTASSIUM-4.2 CHLORIDE-101 TOTAL CO2-28 ANION GAP-15
___ 07:40PM   estGFR-Using this
___ 07:40PM   WBC-4.6 RBC-3.53* HGB-11.6 HCT-36.5 MCV-103*# 
MCH-32.9*# MCHC-31.8* RDW-15.2 RDWSD-56.7*
___ 07:40PM   NEUTS-69.4 LYMPHS-16.4* MONOS-9.6 EOS-3.5 
BASOS-0.9 IM ___ AbsNeut-3.17 AbsLymp-0.75* AbsMono-0.44 
AbsEos-0.16 AbsBaso-0.04
___ 07:40PM   PLT COUNT-183

DISCHARGE LABS:
==================
___ 06:40AM BLOOD WBC-4.3 RBC-3.35* Hgb-11.3 Hct-34.9 
MCV-104* MCH-33.7* MCHC-32.4 RDW-15.7* RDWSD-57.8* Plt ___
___ 06:40AM BLOOD Plt ___
___ 06:55AM BLOOD Glucose-78 UreaN-11 Creat-0.5 Na-139 
K-4.4 Cl-106 HCO3-25 AnGap-12
___ 07:43AM BLOOD Lactate-1.1

IMAGING:
==========
___: Lower extremity Noninvasive US: No evidence of deep venous 
thrombosis in the right or left lower extremity veins. 

MICRO:
========
Blood cultures ___: pending
 
Brief Hospital Course:
___ with PMHx of rheumatoid arthritis with multiple prosthetic 
joints who presents with resents with bilateral lower extremity 
edema, warmth, most consistent with venous stasis flare.

# BLE edema and erythema: Given lack of fevers, leukocytosis or 
pain along with
bilateral nature of symptoms, cellulitis seemed very unlikely. 
Patient was initially started on doxycycline however on further 
discussion with patient, symptoms started in setting of stopping 
dermatology treatment plan (including leg compression) thus 
venous stasis dermatitis felt to be most likely cause of 
bilateral, symmetric swelling and erythema. LENIs negative for 
DVT. Patient's dermatologist was contacted and treatment plan 
restarted per discussion with him including coverage of venous 
stasis ulcer on LLE with aquophor and telfa and then placement 
of Vaseline/clobetasol ointment 1:1 mix covered with ACE wraps. 
Per discussion with dermatologist and the patient regarding her 
ability to manage her legs (difficult due to her own joint 
deformities and her husband's back) decision was made for 
dressing changes 3x/week with ___. Patient with follow-up with 
Dr. ___ in ___ for evaluation of her legs on ___. 

# Lactic acidosis: Elevated to 2.3 in setting of poor PO intake 
at home per patient. Resolved with fluids.

# RA.  Patient with significant deformation of multiple joints. 
Followed by her outpatient rheumatologist at ___ 
___. Continued on home methotrexate, orencia, calcium, 
Fosamax and nexium. Plan for follow-up with rheumatology on ___ 
at ___. 

# H/o multiple prosthetic joint infections.  Per her outpatient 
rheumatologist and ID provider at ___, has been 
on chronic suppression therapy with cipro (previously had 
Pseudomonas growing in cultures). Continued on home 
ciprofloxacin. 

# Overactive bladder: Continued home tolterodine.

# Dry mouth: Continued home Salagen.

# Iron deficiency: Continued home iron supplementation.

Transitional Issues:
======================
# CONTACT:   patient, husband ___ ___
[]f/u blood cultures from ___
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Orencia (abatacept) 125 mg/mL subcutaneous once monthly 
2. Ciprofloxacin HCl 250 mg PO Q12H 
3. Tolterodine 4 mg PO DAILY 
4. Salagen (pilocarpine HCl) 5 mg oral TID 
5. Alendronate Sodium 70 mg PO QSAT 
6. Methotrexate 22.5 mg PO QWED 
7. FoLIC Acid 1 mg PO DAILY 
8. NexIUM (esomeprazole magnesium) 40 mg oral DAILY 
9. Calcium 600 (calcium carbonate) 600 mg (1,500 mg) oral DAILY 
10. Multivitamins 1 TAB PO DAILY 
11. Ferrous Sulfate 325 mg PO BID 

 
Discharge Medications:
1.  Clobetasol Propionate 0.05% Ointment 1 Appl TP EVERY OTHER 
DAY  
2.  Alendronate Sodium 70 mg PO QSAT  
3.  Calcium 600 (calcium carbonate) 600 mg (1,500 mg) oral DAILY 
 
4.  Ciprofloxacin HCl 250 mg PO Q12H  
5.  Ferrous Sulfate 325 mg PO BID  
6.  FoLIC Acid 1 mg PO DAILY  
7.  Methotrexate 22.5 mg PO QWED  
8.  Multivitamins 1 TAB PO DAILY  
9.  NexIUM (esomeprazole magnesium) 40 mg oral DAILY  
10.  Orencia (abatacept) 125 mg/mL subcutaneous once monthly  
11.  Salagen (pilocarpine HCl) 5 mg oral TID  
12.  Tolterodine 4 mg PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Chronic Venous Stasis dermatitis
Venous stasis ulcer
Rheumatoid Arthritis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear ___,

___ were admitted to the hospital with swelling and redness in 
your legs. ___ had ultrasounds of your legs which did not show 
any clots. Your labs did not suggest that ___ had any infection. 
Your swelling and redness is most likely due to a condition 
called chronic venous stasis. We spoke to your dermatologist who 
recommended that ___ treat your legs with steroid cream followed 
by ace bandage wraps at least 3x/week. We have arranged for a 
visiting nurse to assist ___ with this at home. 

Please continue to take all of your medications as prescribed.

It was a pleasure taking care of ___,
Your ___ Care Team
 
Followup Instructions:
___